US08835488B2
A solution of [9-(prop-2-en-1-yl)-6-oxaspiro[4.5]decan-9-yl]hydrazine (250 mg, 1.0 mmol) in 4 mL of i-PrOH were added Et3N and 3-dimethylaminoacrolein. The solution was refluxed for 3 h and then at 50° C. for 2 d. The solvent removed and the residue was purified on 25 g Biotage snap column, eluted with 0-18% EtOAc in Hex (12 CV) to give 1-[9-(prop-2-en-1-yl)-6-oxaspiro[4.5]decan-9-yl]-1H-pyrazole (80 mg, 31% yield).

reactant | [9-(prop-2-en-1-yl)-6-oxaspiro[4.5]decan-9-yl]hydrazine | 1.0 mmol, 250 mg | C(C=C)C1(CCOC2(CCCC2)C1)NN | C12H22N2O
reactant | Et3N | CCN(CC)CC | C6H15N
reactant | 3-dimethylaminoacrolein | CN(C=CC=O)C | C5H9NO
solvent | i-PrOH | 4 mL | CC(C)O | C3H8O
product | 1-[9-(prop-2-en-1-yl)-6-oxaspiro[4.5]decan-9-yl]-1H-pyrazole | 80 mg, 31% yield | C(C=C)C1(CCOC2(CCCC2)C1)N1N=CC=C1 | C15H22N2O
